US07176310B1
14. [5-(4-Fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid pentafluorophenylmethyl ester
The titled compound was prepared from [5-(4-fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid using pentafluorophenol (30 mg, 0. 15 mmol) as the coupling partner. Chromatography (1:1 methanol:dichloromethane) through SiO2 yielded 70 mg (87%) of the titled compound. ESI-MS m/z 472 (MH+), 470 (M−H−).

reactant | [5-(4-fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid | FC1=CC=C(C=C1)NC(=O)C=1C=NC(=NC1)OCC(=O)O | C13H10FN3O4
reactant | pentafluorophenol | 15 mmol, 30 mg | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | [5-(4-Fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid pentafluorophenylmethyl ester | 70 mg, 87% | FC1=C(C(=C(C(=C1COC(COC1=NC=C(C=N1)C(NC1=CC=C(C=C1)F)=O)=O)F)F)F)F | C20H11F6N3O4
